US07199105B2
To a solution of 4-(4-oxo-pent-2-enyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (193 mg, 0.5 mmol, 1 equiv) in benzene (0.9 mL) was added a solution of triphenylphosphine-copper (I) hydride hexamer in benzene (3.6 mL). The mixture was stirred at rt overnight and hexane (13 mL) was added. The mixture was filtered and the filtrate was evaporated. The residue was purified by chromatography to give 4-(4-oxo-pentyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (127 mg, 65%).

reactant | 4-(4-oxo-pent-2-enyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.5 mmol, 193 mg, 1 equiv | COC(=O)C1N(CC(C1)CC=CC(C)=O)C(=O)OC(C)(C)C | C16H25NO5
reactant | hexane | 13 mL | CCCCCC | C6H14
solvent | benzene | 0.9 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 3.6 mL | C1=CC=CC=C1 | C6H6
catalyst | triphenylphosphine-copper (I) hydride hexamer | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu].[Cu].[Cu].[Cu].[Cu].[Cu]
product | 4-(4-oxo-pentyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 127 mg, 65% | COC(=O)C1N(CC(C1)CCCC(C)=O)C(=O)OC(C)(C)C | C16H27NO5
